US08629168B2
a) 5-Amino-1,3-dimethyl-1H-pyridin-2-one
A solution of 1.0 g (5.77 mmol) 1,3-dimethyl-5-nitro-1H-pyridin-2-one in 40 ml MeOH:THF=1:1 is hydrogenated in the presence of 0.18 g 10% Pd/C (Engelhard 4505). The reaction mixture is filtered (2 glass fiber filters used) and the filtrate is concentrated in vacuo to afford the crude title compound as an oil.

reactant | 1,3-dimethyl-5-nitro-1H-pyridin-2-one | 5.77 mmol, 1.0 g | CN1C(C(=CC(=C1)[N+](=O)[O-])C)=O | C7H8N2O3
reactant | THF | C1CCOC1 | C4H8O
solvent | MeOH | 40 ml | CO | CH4O
catalyst | Pd/C | 0.18 g | [Pd] | Pd
product | 5-Amino-1,3-dimethyl-1H-pyridin-2-one | NC=1C=C(C(N(C1)C)=O)C | C7H10N2O
